US07285563B2
N-[3-Methyl-7-(trifluoromethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea
Prepared from 3-methyl-7-(trifluoromethyl)isoquinolin-5-amine (Description 74) and [4-(trifluoromethyl)benzyl]isocyanate (Description 58) according to Description 61. m/z (ES+) 428 (M+H)+.

reactant | 3-methyl-7-(trifluoromethyl)isoquinolin-5-amine | CC=1N=CC=2C=C(C=C(C2C1)N)C(F)(F)F | C11H9F3N2
reactant | [4-(trifluoromethyl)benzyl]isocyanate | FC(C1=CC=C(CN=C=O)C=C1)(F)F | C9H6F3NO
product | N-[3-Methyl-7-(trifluoromethyl)isoquinolin-5-yl]-N′-[4-(trifluoromethyl)benzyl]urea | CC=1N=CC2=CC(=CC(=C2C1)NC(=O)NCC1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C20H15F6N3O
